US06521666B1
A mixture of 4-amino-2-chlorobenzoic acid methyl ester (0.5 g) and 2-chloroethylisothiocyanate (0.26 mL) in THF (20 mL) was refluxed for 24 h. THF was distilled and the residue was purified by column chromatography (silica gel: eluent: hexane/EtOAc 3:1-1:1) to yield 2-chloro-4-(2-thiazolinylamino)benzoic acid methyl ester (74 mg). ESMS: m/z 271 (MH+).

reactant | 4-amino-2-chlorobenzoic acid methyl ester | 0.5 g | COC(C1=C(C=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | 2-chloroethylisothiocyanate | 0.26 mL | ClCCN=C=S | C3H4ClNS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(2-thiazolinylamino)benzoic acid methyl ester | 74 mg | COC(C1=C(C=C(C=C1)NC=1SCCN1)Cl)=O | C11H11ClN2O2S
